US08664207B2
2) (3aS,8aR)-7-Methyl-1,2,3,3a,7,8a-hexahydro-3b,7,8-triaza-cyclopenta[a]inden-6-one
To a solution of 2-((1R,2R)-2-hydroxycyclopentylamino)-3-methylpyrimidin-4(3H)-one (130 mg, 0.62 mmol) in anhydrous THF (2 mL) is added triphenylphosphine (163 mg, 0.62 mmol). Five minutes later, diethyl azodicarboxylate (DEAD, 0.45 mL, 0.93 mmol) in toluene is added dropwise. The mixture is stirred at room temperature for 2 hours. Solvent is removed under vacuum, the residue is treated with 0.02 N HCl (40 mL). The precipitate is filtered off, and the filtrate is washed with CH2Cl2. The aqueous phase is evaporated to dryness under high vacuum to give product as solids (108 mg, yield 92%), which is used for the next reaction without further purification. MS (ESI) m/z 192.1 [M+H]+.

reactant | 2-((1R,2R)-2-hydroxycyclopentylamino)-3-methylpyrimidin-4(3H)-one | 0.62 mmol, 130 mg | O[C@H]1[C@@H](CCC1)NC1=NC=CC(N1C)=O | C10H15N3O2
reactant | triphenylphosphine | 0.62 mmol, 163 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.93 mmol, 0.45 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3aS,8aR)-7-Methyl-1,2,3,3a,7,8a-hexahydro-3b,7,8-triaza-cyclopenta[a]inden-6-one | 108 mg, yield 92% | CN1C2=N[C@H]3[C@@H](N2C=CC1=O)CCC3 | C10H13N3O
